US04522828
A mixture of 1-acetyl-1-(3,4-dichlorophenyl)cyclobutane (4.86 g) prepared as described in Example 1, hydroxylamine hydrochloride (1.6 g), sodium acetate trihydrate (3.3 g), industrial methylated spirit (15 ml) and water (2 ml) was heated under reflux for twenty hours. The cooled reaction mixture was poured into water and the oil which separated was cooled to give a solid which was recrystallised from industrial methylated spirit to give 1-acetyl-1-(3,4-dichlorophenyl)cyclobutane oxime (m.p. 120°-121° C.).

reactant | 1-acetyl-1-(3,4-dichlorophenyl)cyclobutane | 4.86 g | C(C)(=O)C1(CCC1)C1=CC(=C(C=C1)Cl)Cl | C12H12Cl2O
reactant | hydroxylamine hydrochloride | 1.6 g | Cl.NO
reactant | sodium acetate trihydrate | 3.3 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
solvent | water | 2 ml | O | H2O
product | 1-acetyl-1-(3,4-dichlorophenyl)cyclobutane oxime | C(C)(C1(CCC1)C1=CC(=C(C=C1)Cl)Cl)=NO | C12H13Cl2NO
